US05843957
Preparation of N-[1-butyl-4-{3-(3-amino-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(3-tert-butoxycarbonylamino-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropyl-phenyl)urea (104 mg, 0.16 mmol) in chloroform (5 ml) was added trifluoroacetic acid (1 ml) at under ice-cooling. The mixture was warmed to room temperature, and then stirred for 1.5 hour. The mixture was concentrated under reduced pressure to remove the solvent, and to the residue was added 5% aqueous sodium chloride solution. The mixture was treated with aqueous ammonia to be converted into a free form, and then extracted with ethyl acetate. The oily layer was washed with 5% aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (4% methanol in chloroform) to give the title compound (64 mg, 0.12 mmol).

reactant | N-[1-butyl-4-{3-(3-tert-butoxycarbonylamino-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropyl-phenyl)urea | 0.16 mmol, 104 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)C#CCNC(=O)OC(C)(C)C)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C39H47N5O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[1-butyl-4-{3-(3-amino-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.12 mmol, 64 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)C#CCN)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H39N5O2
